### PR TITLE
[Merged by Bors] - feat(RingTheory/Algebraic): transitivity of algebraicity

### PR DESCRIPTION
**Pull request by alreadydone**
Main results:

* `Subalgebra.algebraicClosure`: If `R` is a domain and `S` is an arbitrary `R`-algebra, then the elements of `S` that are algebraic over `R` form a subalgebra. (The proofs are due to Matthé van der Lee on [MathOverflow](https://mathoverflow.net/questions/482944/when-do-algebraic-elements-form-a-subalgebra#comment1257824_482944).)

* `Algebra.IsAlgebraic.trans'`: If `A/S/R` is a tower of algebras and both `A/S` and `S/R` are algebraic, then `A/R` is also algebraic, provided that `S` has no zero divisors and `algebraMap S A` is injective (so `S` can be regarded as an `R`-subalgebra of `A`).

* `Transcendental.extendScalars`: an element of an `R`-algebra that is transcendental over `R` remains transcendental over any algebraic `R`-subalgebra that has no zero divisors.

* `IsLocalization.isAlgebraic`: a localization of a nontrivial commutative ring is always algebraic. Used to golf `exists_integral_multiples`.

Auxiliary result:

* `IsAlgebraic.iff_exists_smul_integral`: If `R` is reduced and `S` is an `R`-algebra with injective `algebraMap`, then an element of `S` is algebraic over `R` iff some `R`-multiple is integral over `R`.

---

`AlgebraicIndependent.extendScalars` will be PR'd once #19606 is in.

- [x] depends on: #19592 
- [x] depends on: #19665

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by acmepjz** [comment]
Maybe you want to change the base branch to `master`?

**Comment by alreadydone** [comment]
It's easier to review if the changes from #19592 (3 files touched) are excluded.

**Review by acmepjz — COMMENTED** [review]
Looks good to me! I haven't spot any other problems.

Do you think it's good to add the relation of `integralClosure`, `Subalgebra.algebraicClosure` and the intermediate field version `algebraicClosure`? For example, sometimes `integralClosure` and `Subalgebra.algebraicClosure` are equal, and some of the results on `IsAlgebraic/Transcendental` and `integralClosure`, `Subalgebra.algebraicClosure` also holds for `algebraicClosure`.

**Comment by alreadydone** [comment]
> Do you think it's good to add the relation of `integralClosure`, `Subalgebra.algebraicClosure` and the intermediate field version `algebraicClosure`? For example, sometimes `integralClosure` and `Subalgebra.algebraicClosure` are equal,

I've added `algebraicClosure_toSubalgebra` (the intermediate field version) and `Subalgebra.algebraicClosure_eq_integralClosure` (over a field). Apart from fields they are probably not equal.

> and some of the results on `IsAlgebraic/Transcendental` and `integralClosure`, `Subalgebra.algebraicClosure` also holds for `algebraicClosure`.

I renamed the `Transcendental.algebraicClosure` to `subalgebraAlgebraicClosure` and used the original name for the intermediate field version. I can add `AlgebraicIndependent..algebraicClosure` with the future PR, but there isn't a good home for it apparently ...

File: Mathlib/RingTheory/Algebraic/Integral.lean [hunk 1]
```diff
@@ -146,15 +156,249 @@ end Field
...
+    (inj : Function.Injective (algebraMap S A)) : Transcendental S a := by
+  contrapose ha
+  rw [Transcendental, not_not] at ha ⊢
+  exact ha.restrictScalars_of_isIntegral _ inj
+
+lemma extendScalars [NoZeroDivisors S] [Algebra.IsAlgebraic R S]
+    (inj : Function.Injective (algebraMap S A)) : Transcendental S a := by
+  contrapose ha
+  rw [Transcendental, not_not] at ha ⊢
+  exact ha.restrictScalars _ inj
```
Comment (alreadydone) [inline Mathlib/RingTheory/Algebraic/Integral.lean:389]: There is some evidence that the [NoZeroDivisors S] condition might be weakened. If S is a localization of R, then the injectivity of `R[X] → A` (from `Transcendental R a`) implies the injectivity of `S[X] → S ⊗[R] A`, but since A/S/R is a tower and S/R is a localization, `S ⊗[R] A` is just `A`, and we get `Transcendental S a` without requiring S to have no zero divisors. Of course, `Transcendental R a` implies `algebraMap R S` is injective, so the submonoid can't contain any zero divisors.

File: Mathlib/RingTheory/Algebraic/Basic.lean [hunk 2]
```diff
@@ -93,6 +108,17 @@ theorem transcendental_iff_ker_eq_bot {x : A} :
     Transcendental R x ↔ RingHom.ker (aeval (R := R) x) = ⊥ := by
   rw [transcendental_iff_injective, RingHom.injective_iff_ker_eq_bot]
 
+theorem Algebra.isAlgebraic_of_not_injective (h : ¬ Function.Injective (algebraMap R A)) :
+    Algebra.IsAlgebraic R A where
+  isAlgebraic a := isAlgebraic_iff_not_injective.mpr
+    fun inj ↦ h <| by convert inj.comp C_injective; ext; simp
+
+theorem Algebra.injective_of_transcendental (h : Algebra.Transcendental R A) :
```
Comment (alreadydone) [inline Mathlib/RingTheory/Algebraic/Basic.lean:117]:
```suggestion
theorem Algebra.injective_of_transcendental [Algebra.Transcendental R A] :
```

File: Mathlib/FieldTheory/AlgebraicClosure.lean [hunk 3]
```diff
@@ -100,15 +103,18 @@ variable (F E K)
...
-    isAlgebraic_iff.mpr (IsAlgebraic.isIntegral (mem_algebraicClosure_iff.mp x.2)).isAlgebraic⟩
+  ⟨fun x ↦ isAlgebraic_iff.mpr x.2.isAlgebraic⟩
 
 /-- The algebraic closure of `F` in `E` is the integral closure of `F` in `E`. -/
 instance isIntegralClosure : IsIntegralClosure (algebraicClosure F E) F E :=
   inferInstanceAs (IsIntegralClosure (integralClosure F E) F E)
 
 end algebraicClosure
 
+theorem Transcendental.algebraicClosure {a : E} (ha : Transcendental F a) :
```
Comment (alreadydone) [inline Mathlib/FieldTheory/AlgebraicClosure.lean:114]:
```suggestion
protected theorem Transcendental.algebraicClosure {a : E} (ha : Transcendental F a) :
```

File: Mathlib/RingTheory/Algebraic/Basic.lean [hunk 4]
```diff
@@ -93,6 +109,17 @@ theorem transcendental_iff_ker_eq_bot {x : A} :
     Transcendental R x ↔ RingHom.ker (aeval (R := R) x) = ⊥ := by
   rw [transcendental_iff_injective, RingHom.injective_iff_ker_eq_bot]
 
+theorem Algebra.isAlgebraic_of_not_injective (h : ¬ Function.Injective (algebraMap R A)) :
+    Algebra.IsAlgebraic R A where
+  isAlgebraic a := isAlgebraic_iff_not_injective.mpr
+    fun inj ↦ h <| by convert inj.comp C_injective; ext; simp
+
+theorem Algebra.injective_of_transcendental [Algebra.Transcendental R A] :
+    Function.Injective (algebraMap R A) := by
```
Comment (alreadydone) [inline Mathlib/RingTheory/Algebraic/Basic.lean:118]:
```suggestion
theorem Algebra.injective_of_transcendental [h : Algebra.Transcendental R A] :
    Function.Injective (algebraMap R A) := by
```

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
